US09193720B2
The potassium hydroxide (72.2 mg, 1.28 mmol) was added to a solution (S)-isopropyl 2-(tert-butoxy)-2-(5-(4-(4-fluorophenethoxy)phenyl)-2,6-dimethyl-4-(4-phenylpiperidin-1-yl)pyridin-3-yl)acetate (84 mg, 0.13 mmol) in ethanol (3 mL) and stirred for 3 h at 90° C. The reaction mixture was neutralized with 1N HCl solution, extracted with EtOAc, and the organic layer was washed with brine, and dried (MgSO4). The crude material was purified by prep HPLC to afford (S)-2-(tert-butoxy)-2-(5-(4-(4-fluorophenethoxy)phenyl)-2,6-dimethyl-4-(4-phenylpiperidin-1-yl)pyridin-3-yl)acetic acid 51.2 mg (65%) as a mixture of diastereomers. 1H NMR (500 MHz, DMSO-d6) δ 7.41-7.39 (m, 2H), 7.28-7.22 (m, 3H), 7.17-7.13 (m, 5H), 7.05-7.01 (m, 3H), 5.88 (br. s, 1H), 4.24 (t, J=6.2 Hz, 2H), 3.59-3.58 (m, 1H), 3.09-3.06 (m, 2H), 2.75-2.71 (m, 1H), 2.58-2.56 (m, 1H), 2.47 (s, 3H), 2.26-2.22 (br. s, 1H), 2.05 (s, 3H), 1.94-1.81 (m, 2H), 1.65-1.50 (m, 3H), 1.18 (s, 9H). UPLC (M+H)=611.4.

reactant | potassium hydroxide | 1.28 mmol, 72.2 mg | [OH-].[K+]
reactant | (S)-isopropyl 2-(tert-butoxy)-2-(5-(4-(4-fluorophenethoxy)phenyl)-2,6-dimethyl-4-(4-phenylpiperidin-1-yl)pyridin-3-yl)acetate | 0.13 mmol, 84 mg | C(C)(C)(C)O[C@H](C(=O)OC(C)C)C=1C(=NC(=C(C1N1CCC(CC1)C1=CC=CC=C1)C1=CC=C(C=C1)OCCC1=CC=C(C=C1)F)C)C | C41H49FN2O4
reactant | HCl | 1N | Cl | ClH
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | (S)-2-(tert-butoxy)-2-(5-(4-(4-fluorophenethoxy)phenyl)-2,6-dimethyl-4-(4-phenylpiperidin-1-yl)pyridin-3-yl)acetic acid | 51.2 mg, 65% | C(C)(C)(C)O[C@H](C(=O)O)C=1C(=NC(=C(C1N1CCC(CC1)C1=CC=CC=C1)C1=CC=C(C=C1)OCCC1=CC=C(C=C1)F)C)C | C38H43FN2O4
